### ISSUE TITLE
congr in conv tactic fails if preceded by `let` or `have` expression

### ISSUE THREAD

**Issue by imbrem** [leanprover/lean4#1118]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

When entering `conv` mode, the `congr` tactic does not work if a `have` or `let`-binding was introduced before it; for example, taking the perfectly good proof
```lean
theorem CongrGood {x y: Nat}: x + y = y + x := by {
  conv =>
    congr
    . rw [Nat.add_comm]
    . skip
}
```
and adding a completely unused `have`-binding/`let`-binding
```lean
theorem CongrBad {x y: Nat}: x + y = y + x := by {
  have I: True := True.intro;
  conv =>
    congr
    . rw [Nat.add_comm]
    . skip
}

theorem CongrBad' {x y: Nat}: x + y = y + x := by {
  let I: True := True.intro;
  conv =>
    congr
    . rw [Nat.add_comm]
    . skip
}
```
introduces an error at the `congr` tactic. Adding a tactic in the middle, e.g.
```lean
theorem CongrBad'' {x y: Nat}: x + y = y + x := by {
  let I: True := True.intro;
  try rfl;
  conv =>
    congr
    . rw [Nat.add_comm]
    . skip
}
```
changes nothing. `have`/`let` bindings affecting other goals seem to be fine, e.g.
```lean
theorem CongrGood' {x y: Nat}: x + y = y + x := by {
  cases x;
  have I: True := True.intro;
  rw [Nat.add_comm]
  conv =>
    congr
    . rw [Nat.add_comm]
    . skip
}
```
works fine.

### Steps to Reproduce

Type the above code into a VSCode instance with the Lean4 plugin loaded

**Expected behavior:** everything typechecks fine

**Actual behavior:** in the theorems `CongrBad`, the `congr` tactic throws the error
```text
invalid 'congr' conv tactic, application or implication expected
  x + y = y + x
```

**Reproduces how often:** 100%

### Versions

Lean (version 4.0.0-nightly-2022-04-23, commit a82abee1b2c1, Release)
OS: Arch Linux

### Additional Information

Running VSCode with the Lean4 plugin

**Comment by imbrem** [comment]
I'm running the latest nightly (version string `Lean (version 4.0.0-nightly-2022-04-25, commit 3ad8dcb7ffdc, Release)`) and still getting this bug for some reason (exact same behavior).

**Comment by leodemoura** [comment]
I fixed the bug today. The fix will be included the in next nightly build. If I am not mistaken it is built at 11:00 pm PST.
